US05786302
A. Preparation of 4,5-Dichloro-1-[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy2-nitrobenzene
5-Hydroxy-1-methyl-3-trifluoromethylpyrazole (7.0 g, 40 mmol) and powdered potassium carbonate (11.4 g, 80 mmol) were stirred together in dimethylsulfoxide (40 ml) for 30 minutes. 4,5-Dichloro-2-fluoronitrobenzene (7.9 g, 50 mmol) was added and the mixture stirred at room temperature for 18 h. The mixture was partitioned between diethyl ether and water, the ethereal extract washed with water and brine, dried over magnesium sulfate, filtered and the filtrate evaporated. The residue was further purified by flash column chromatography over silica gel, to give the desired product (5.9 g) as a light yellow solid, m.p. 99°-100° C.

reactant | 5-Hydroxy-1-methyl-3-trifluoromethylpyrazole | 40 mmol, 7.0 g | OC1=CC(=NN1C)C(F)(F)F | C5H5F3N2O
reactant | potassium carbonate | 80 mmol, 11.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,5-Dichloro-2-fluoronitrobenzene | 50 mmol, 7.9 g | ClC1=CC(=C(C=C1Cl)[N+](=O)[O-])F | C6H2Cl2FNO2
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 4,5-Dichloro-1-[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy2-nitrobenzene | 5.9 g | ClC1=CC(=C(C=C1Cl)OC1=CC(=NN1C)C(F)(F)F)[N+](=O)[O-] | C11H6Cl2F3N3O3
